US07595312B2
7.1b ethyl (R)-3-(4-amino-3-chloro-5-trifluoromethyl-phenyl)-2-{[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidin-1-carbonyl]-amino}-propionate
1.8 g (11.0 mmol) CDT were added to a solution of 3.2 g (10.2 mmol) of ethyl (R)-2-amino-3-(4-amino-3-chloro-5-trifluoromethyl-phenyl)-propionate and 1.8 mL (10.3 mmol) ethyldiisopropylamine in 150 mL THF cooled to 0° C. and the reaction mixture was stirred for 45 min at this temperature and after removal of the ice bath stirred for a further 30 min. Then 2.5 g (10.2 mmol) 3-piperidin-4-yl-1,3,4,5-tetrahydro-1,3-benzodiazepin-2-one suspended in 50 mL THF were added. 40 mL DMF were added to the reaction solution and this was stirred for 2 h at 80° C. It was evaporated down i.vac., combined with 200 mL EtOAc and 200 mL 10% citric acid solution, the organic phase was separated off, extracted with 150 mL NaHCO3 solution and dried over Na2SO4. After elimination of the desiccant and solvent the desired product was obtained.

reactant | ethyl (R)-2-amino-3-(4-amino-3-chloro-5-trifluoromethyl-phenyl)-propionate | 10.2 mmol, 3.2 g | N[C@@H](C(=O)OCC)CC1=CC(=C(C(=C1)C(F)(F)F)N)Cl | C12H14ClF3N2O2
reactant | ethyldiisopropylamine | 10.3 mmol, 1.8 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 3-piperidin-4-yl-1,3,4,5-tetrahydro-1,3-benzodiazepin-2-one | 10.2 mmol, 2.5 g | N1CCC(CC1)N1C(NC2=C(CC1)C=CC=C2)=O | C14H19N3O
reactant | DMF | 40 mL | CN(C)C=O | C3H7NO
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | ethyl (R)-3-(4-amino-3-chloro-5-trifluoromethyl-phenyl)-2-{[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidin-1-carbonyl]-amino}-propionate | NC1=C(C=C(C=C1C(F)(F)F)C[C@H](C(=O)OCC)NC(=O)N1CCC(CC1)N1C(NC2=C(CC1)C=CC=C2)=O)Cl | C27H31ClF3N5O4
